US07189738B2
5-chloro-N-(1,3-dioxo-2-{2-[1-(2-pyridinyl)-4-piperidinyl]ethyl}-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide
can be prepared from 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide and 2-bromopyridine

reactant | 5-chloro-N-{1,3-dioxo-2-[2-(4-piperidinyl)ethyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCNCC1)=O | C20H20ClN3O3S
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 5-chloro-N-(1,3-dioxo-2-{2-[1-(2-pyridinyl)-4-piperidinyl]ethyl}-2,3-dihydro-1H-isoindol-4-yl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CCC1CCN(CC1)C1=NC=CC=C1)=O | C25H23ClN4O3S
